US05215983
A solution of (2S,4R)-1-allyloxycarbonyl-4-tertbutyldimethylsilyloxy-2-(imidazo[1,2-b]pyrazol-1-yl)methylpyrrolidine (4.23 g) and conc. hydrochloric acid (2.61 ml) in methanol (40 ml) was stirred at ambient temperature for 5 hours. The reaction mixture was adjusted to pH 8-9 with 28% sodium methoxide in methanol solution and the mixture was concentrated in vacuo. The resulting residue was chromatographed on silica gel (100 g) eluting with a mixture of dichloromethane and acetone (2:1, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4R)-1-allyloxycarbonyl-4-hydroxy-2-(imidazo [1,2-b]pyrazol-1-yl)methylpyrrolidine (3.18 g).

reactant | (2S,4R)-1-allyloxycarbonyl-4-tertbutyldimethylsilyloxy-2-(imidazo[1,2-b]pyrazol-1-yl)methylpyrrolidine | 4.23 g | C(C=C)OC(=O)N1[C@](C[C@@H](C1)C(C)(C)C)(CN1C=CN2N=CC=C21)O[SiH](C)C | C20H32N4O3Si
reactant | hydrochloric acid | 2.61 ml | Cl | ClH
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | (2S,4R)-1-allyloxycarbonyl-4-hydroxy-2-(imidazo [1,2-b]pyrazol-1-yl)methylpyrrolidine | 3.18 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O)CN1C=CN2N=CC=C21 | C14H18N4O3
